US07351728B2
2-(4-{2-[2-(3,5-Di-tert-butyl-4-hydroxyphenyl)oxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester
Toluene-4-sulfonic acid 2-[2-(3,5-di-tert-butyl-4-hydroxyphenyl)oxazol-4-yl]ethyl ester (Eli Lilly and Co, Eur. Pat. Appl. 98-308063) (490 mg, 1.04 mmol) was coupled to 2-(4-hydroxyphenoxy)-2-methylpropanoic acid ethyl ester (American Home Products U.S. Pat. No. 3,795,691) (203 mg, 0.90 mmol) following the procedure described in Example 1 to provide the product (330 mg, 70%) as a clear, colorless oil:

reactant | Toluene-4-sulfonic acid 2-[2-(3,5-di-tert-butyl-4-hydroxyphenyl)oxazol-4-yl]ethyl ester | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1OC=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C26H33NO5S
reactant | 2-(4-hydroxyphenoxy)-2-methylpropanoic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC=C(C=C1)O)=O | C12H16O4
product | 2-(4-{2-[2-(3,5-Di-tert-butyl-4-hydroxyphenyl)oxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | 330 mg, 70% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C31H41NO6
